US07351733B2
A solution of 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (43 mg, 0.16 mmol) and 2-chloropyrimidine (56 mg, 0.49 mmol) in N,N-dimethylformamide (1.0 mL) was sealed in a microwave vial and heated by a Smith Synthesizer microwave at 150° C. for 15 minutes. The mixture was diluted with ethyl acetate (10 mL) and washed with water (2×10 mL). The organic phase was concentrated and purified by flash column chromatography on silica (20% to 50% gradient of ethyl acetate/hexanes) to provide 6-bromo-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine. The amine was diluted with diethyl ether (3 mL) and hydrogen chloride (1.0 M in diethyl ether) was added. The suspension was concentrated, diluted with acetonitrile and water, frozen and lyophilized to provide 6-bromo-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride (16 mg, 26%) as a yellow solid. 1H-NMR (DMSO-d6): δ 10.94 (s, 1H), 8.44-8.39 (m, 2H), 8.03-7.96 (m, 1H), 7.55 (s, 1H), 7.23 (d, 1H), 7.12 (d, 1H), 6.72 (t, 1H), 5.37-5.32 (m, 1H), 2.63-2.59 (m, 2H), 2.09-1.95 (m, 2H), 1.87-1.75 (m, 2H); MS m/z (M−1) 341, 343.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.16 mmol, 43 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2-chloropyrimidine | 0.49 mmol, 56 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-bromo-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=CC=N1 | C16H15BrN4
